US07084270B2
FMOC-D-Methionine (5.00 g, 13.46 mmol) (Bachem) was dissolved in dichloromethane (70 mL). Pyridine (1.09 mL, 13.46 mmol) (Aldrich) and cyanuric fluoride (1.82 g, 13.46 mmol) (Aldrich) were successively added at room temperature and the mixture was stirred for 4 hours. Ice cold water (100 mL) was added and the resulting slurry was filtered. The filtrate was poured into a separatory funnel and the layers were separated. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford FMOC-D-methionyl fluoride as a white powder. (Yield 3.7 g., 74%).

reactant | FMOC-D-Methionine | 13.46 mmol, 5.00 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@H](CCSC)C(=O)O | C20H21NO4S
reactant | Pyridine | 13.46 mmol, 1.09 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 13.46 mmol, 1.82 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | FMOC-D-methionyl fluoride | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@H](CCSC)C(=O)F | C20H20FNO3S
